US06320050B1
A solution of 4-chloro-3-nitrophenylacetamide (2.00 g, 9.32 mmol) in methanol (40 mL) was treated with Amberlyst® 15 ion exchange resin (15.00 g). The resulting reaction mixture was heated under reflux for 64 h. The reaction mixture was allowed to cool to 25° C. and then filtered to remove the Amberlyst® 15 ion exchange resin. The filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate) afforded 4-chloro-3-nitrophenylacetic acid methyl ester (1.91 g, 89%) as a yellow oil: EI-HRMS m/e calcd for C9H8ClNO4 (M+) 229.0142, found 229.0146.

reactant | 4-chloro-3-nitrophenylacetamide | 9.32 mmol, 2.00 g | ClC1=C(C=C(C=C1)CC(=O)N)[N+](=O)[O-] | C8H7ClN2O3
reactant | methanol | 40 mL | CO | CH4O
product | 4-chloro-3-nitrophenylacetic acid methyl ester | 1.91 g, 89% | COC(CC1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C9H8ClNO4
